US06376668B1
In 150 mL of THF was dissolved 10.2 g of 2-(4-methyl-2-phenylpiperazin-1-yl)pyridine-3-carboxylic acid under nitrogen atmosphere. To 300 mL of THF was added 10.2 g of lithium aluminum hydride, and the above THF solution was added in a thin stream to the mixture over 50 minutes under reflux. After refluxing the mixture for 4 hours, the mixture was cooled to 0° to 5° C., and 40.5 mL of water was gradually added in a thin stream thereto. Aluminum hydroxide was separated therefrom by filtration, and the filtrate was concentrated with an evaporator. The residue was allowed to recrystallize from an ether, to give 8.6 g of 2-(4-methyl-2-phenylpiperazin-1-yl)pyridine-3-methanol. Its yield was 98%.

reactant | 2-(4-methyl-2-phenylpiperazin-1-yl)pyridine-3-carboxylic acid | 10.2 g | CN1CC(N(CC1)C1=NC=CC=C1C(=O)O)C1=CC=CC=C1 | C17H19N3O2
reactant | lithium aluminum hydride | 10.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 40.5 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(4-methyl-2-phenylpiperazin-1-yl)pyridine-3-methanol | 8.6 g, yield was 98% | CN1CC(N(CC1)C1=NC=CC=C1CO)C1=CC=CC=C1 | C17H21N3O
